US05008439
Methyl 2-(4-acetylphenoxy)propanoate (22.4 g, 100.0 mL) is dissolved in acetic acid (100 mL). Purified peracetic acid (19%, 58.0 g, 145.0 mmol) is dropwise added to the reaction at 58° C. and 60 mmHgA. The reaction is refluxed for 10 hours at 58° C. and 60 mm HgA whereupon the reaction is analyzed by GLC. The reaction is cooled to room temperature and concentrated under reduced pressure to give pure methyl 2-(4-acetoxyphenoxy)propanoate (20.13 g) (yield 84%):b.p 96-98° C. at 0.15 mm HgA, IR(neat) 1757.8 (vs); 1H NMR (CDC13) delta 1.58 (d, J=6.9 Hz, 3H), 2.23 (s, 3H), 3.72 (s, 3H), 4.70 (q, J=6.9 Hz, 3H), 6.84 and 6.96 (dd, J=9.2 Hz, 4H).

reactant | Methyl 2-(4-acetylphenoxy)propanoate | 100.0 mL, 22.4 g | C(C)(=O)C1=CC=C(OC(C(=O)OC)C)C=C1 | C12H14O4
reactant | peracetic acid | 145.0 mmol, 58.0 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | methyl 2-(4-acetoxyphenoxy)propanoate | 20.13 g, yield 84% | C(C)(=O)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C12H14O5
